US09278973B2
To a solution of 3-(4-fluorophenyl)-1H-1,2,4-triazol-5-amine (100 mg, 0.56 mmol) in n-BuOH (3 ml) was added TsOH (5 mg, 0.03 mmol), and ethyl 3-(4-chloro-3-methoxyphenyl)-3-oxopropanoate (200 mg, 0.78 mmol), and the resulting mixture was stirred for 36 hours at 130° C. in an oil bath. The solids were collected by filtration to give a crude product, which was purified by Flash-Prep-HPLC to afford 5-(4-chloro-3-methoxyphenyl)-2-(4-fluorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a white solid (33.5 mg, 16%).

reactant | 3-(4-fluorophenyl)-1H-1,2,4-triazol-5-amine | 0.56 mmol, 100 mg | FC1=CC=C(C=C1)C1=NNC(=N1)N | C8H7FN4
reactant | TsOH | 0.03 mmol, 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | ethyl 3-(4-chloro-3-methoxyphenyl)-3-oxopropanoate | 0.78 mmol, 200 mg | ClC1=C(C=C(C=C1)C(CC(=O)OCC)=O)OC | C12H13ClO4
solvent | n-BuOH | 3 ml | CCCCO | C4H10O
product | 5-(4-chloro-3-methoxyphenyl)-2-(4-fluorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 33.5 mg, 16% | ClC1=C(C=C(C=C1)C=1NC=2N(C(C1)=O)N=C(N2)C2=CC=C(C=C2)F)OC | C18H12ClFN4O2
